US08754226B2
To a solution of (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)azepan-2-one (0.10 g, 0.26 mmol) and DIEA (0.14 mL, 0.78 mmol) in DMF (2 mL) was added 2-chloro-5-ethylpyrimidine (0.11 g, 0.78 mmol). This mixture stirred at 100° C. for 4 hours in a sealed tube. The mixture was poured into water (50 mL) and extracted into ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The material was purified by column chromatography using 50% to 100% hexanes/ethyl acetate. The HCl salt was made using HCl in ether to give (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)azepan-2-one hydrochloride (0.055 g, 0.11 mmol, 43%) (APCI POS 490 M+H).

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)azepan-2-one | 0.26 mmol, 0.10 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CCCC1)C1CCNCC1)=O | C18H26FN3O3S
reactant | DIEA | 0.78 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 0.78 mmol, 0.11 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | water | 50 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)azepan-2-one hydrochloride | 0.11 mmol, 490 M, 0.055 g, 43% | Cl.C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CCCC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | InChI=1S/C24H32FN5O3S.ClH/c1-3-17-15-26-24(27-16-17)29-12-9-18(10-13-29)30-11-5-4-6-22(23(30)31)28-21-8-7-19(14-20(21)25)34(2,32)33;/h7-8,14-16,18,22,28H,3-6,9-13H2,1-2H3;1H/t22-;/m0./s1
